US04574126
A solution of 1-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-1-methylthio-2-nitroethylene (0.85 g) in 16% methylamine in ethanol (40 ml) was allowed to stand at ambient temperature for 36 hours. The solvent was removed in vacuo and the product was purified by chromatography on a silica gel column eluted with 15% methanol/chloroform followed by recrystallisation from acetonitrile to give 1-nitro-2-methylamino-2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-ethylene (0.32 g) m.p. 113°-115° C.

reactant | 1-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-1-methylthio-2-nitroethylene | 0.85 g | CN(C)CC1=CC(=NC=C1)CSCCNC(=C[N+](=O)[O-])SC | C14H22N4O2S2
reactant | methylamine | CN | CH5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-nitro-2-methylamino-2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-ethylene | 0.32 g | [N+](=O)([O-])C=C(NCCSCC1=NC=CC(=C1)CN(C)C)NC | C14H23N5O2S
